US06541638B2
(S)-2-[[(2S,4S)-4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-3-methyl-butyric acid methyl ester was treated with 0.1M LiOH according to general procedure 5.2. to yield (S)-2-[[(2S,4S)-4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-3-methyl-butyric acid as white foam, MS: 437 (MH+).

reactant | (S)-2-[[(2S,4S)-4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-3-methyl-butyric acid methyl ester | COC([C@H](C(C)C)NC(=O)[C@H]1N(C[C@H](C1)S)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C21H26N2O5S2
reactant | LiOH | 0.1M | [Li+].[OH-]
product | (S)-2-[[(2S,4S)-4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-amino]-3-methyl-butyric acid | S[C@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)N[C@H](C(=O)O)C(C)C | C20H24N2O5S2
